US06340691B1
4-(4-Benzyloxy-phenoxy)-butyric acid ethyl ester
To a suspension of 1.2 g (0.030 mol) of 60% sodium hydride in 100 mL of toluene was added 6.12 g (0.030 mol) of 4(benzyloxy)phenol and the reaction was stirred at room temperature for 30 minutes followed by the addition of 5.85 g (0.030 mol) of ethyl 3-bromobutyrate. The resulting mixture was heated to reflux overnight and then filtered. The filtrate was washed with 0.5N sodium hydroxide solution, 3% sodium carbonate solution, water and brine, dried over Na2SO4, filtered and concentrated in vacuo to provide 5.45 g of the bis-ether as a white solid. Electrospray Mass Spec: 314.8 (M+H)+

reactant | sodium hydride | 0.030 mol, 1.2 g | [H-].[Na+]
reactant | 4(benzyloxy)phenol | 0.030 mol, 6.12 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | ethyl 3-bromobutyrate | 0.030 mol, 5.85 g | BrC(CC(=O)OCC)C | C6H11BrO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Benzyloxy-phenoxy)-butyric acid ethyl ester | C(C)OC(CCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C19H22O4
